US04668815
Into a solution of 0.15 g (0.67 mM) of 2-(4-ethoxyphenyl)isovaleric acid in 3 ml of chloroform, 0.24 g (1.35 mM) of N-bromosuccinimide was added, and the mixture was heated for 3 hours in the presence of a catalytic amount of anhydrous aluminum chloride under a reflux condition. The oily substance obtained by condensing the reaction mixture was subjected to silica gel column chromatography while using a 1:3 mixture of ethyl acetate and n-hexane as an eluent, thereby 0.12 g of 2-(3-bromo-4-ethoxyphenyl)isovaleric acid was obtained as a colourless and oily substance (yield: 60%).

reactant | 2-(4-ethoxyphenyl)isovaleric acid | 0.67 mM, 0.15 g | C(C)OC1=CC=C(C=C1)C(C(=O)O)C(C)C | C13H18O3
reactant | N-bromosuccinimide | 1.35 mM, 0.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-(3-bromo-4-ethoxyphenyl)isovaleric acid | 0.12 g, yield: 60% | BrC=1C=C(C=CC1OCC)C(C(=O)O)C(C)C | C13H17BrO3
